US09284331B2
Step 2: 9-hydroxy-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 142-2. 2-(4-(methoxymethyl)-1H-imidazol-1-yl)-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (413 mg, 0.737 mmol) was dissolved in DME (10 mL) and hydrogen peroxide (30%, 3.40 mL, 33.3 mmol) was added at rt. The mixture was stirred overnight and the resulting crystals were filtered off (62 mg). UPLC-MS: MS 339.2 (M+H+); UPLC rt 0.63 min.

reactant | 2-(4-(methoxymethyl)-1H-imidazol-1-yl)-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.737 mmol, 413 mg | COCC=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)B2OC(C(O2)(C)C)(C)C)=C1)=O | C24H29BN4O4
reactant | hydrogen peroxide | 33.3 mmol, 3.40 mL | OO | H2O2
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 9-hydroxy-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | OC1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)COC | C18H18N4O3
